US09359338B2
Step 2: Synthesis of N-[4-(2-fluoro-4-nitro-anilino)-2-pyridyl]cyclopropanecarboxamide
Mix 2-chloro-N-(2-fluoro-4-nitro-phenyl)pyridin-4-amine (280 mg, 1.05 mmol), cyclopropanecarboxamide (267 mg, 3.15 mmol), Cs2CO3 (863 mg, 2.63 mmol), (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene (BINAP, 65 mg, 1.05 mmol), tris(dibenzylideneacetone)dipalladium [Pd2(dba)3, 48 mg, 0.053 mmol] and 1,4-dioxane (6 mL) in a 50 mL round bottom flask, heat at 100° C. under N2 for 16 hrs. Cool the reaction to 25° C., add water (40 mL), extract with EtOAc (10 mL×2). Combine the organic layers; wash with brine (15 mL), dry over anhydrous Na2SO4. Concentrate under reduced pressure to give the crude product. Purification by chromatography (silica gel, PE:EtOAc=7:3) affords the target compound (180 mg, 54%). MS: (M+1): 317.1.

reactant | 2-chloro-N-(2-fluoro-4-nitro-phenyl)pyridin-4-amine | 1.05 mmol, 280 mg | ClC1=NC=CC(=C1)NC1=C(C=C(C=C1)[N+](=O)[O-])F | C11H7ClFN3O2
reactant | cyclopropanecarboxamide | 3.15 mmol, 267 mg | C1(CC1)C(=O)N | C4H7NO
reactant | Cs2CO3 | 2.63 mmol, 863 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene | 1.05 mmol, 65 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.053 mmol, 48 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 40 mL | O | H2O
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | N-[4-(2-fluoro-4-nitro-anilino)-2-pyridyl]cyclopropanecarboxamide | 180 mg, 54% | FC1=C(NC2=CC(=NC=C2)NC(=O)C2CC2)C=CC(=C1)[N+](=O)[O-] | C15H13FN4O3
